US07115767B2
To iPr2NH (202 mg, 2.0 mmol) in THF (1.0 mL) was added BuLi (2.5 M, 0.8 mL, 2.0 mmol) at −78° C. After 10 minutes, 8-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid methyl ester in THF (1.0 mL) was added and the reaction mixture turned yellow. Methyl iodide (568 mg, 4.0 mmol) and HMPA (1.0 mL) were added after 30 minutes. The reaction mixture was allowed to stir at −78° C. for 3 hours at ambient temperature before aqueous NH4Cl was added. The mixture was extracted with ethyl acetate (3×20 mL) and the combined extracts were dried over MgSO4 and purified by column chromatography to give 8-methoxy-2-methyl-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid methyl ester (170 mg, 84%).

reactant | iPr2NH | 2.0 mmol, 202 mg | N(C(C)C)C(C)C | C6H15N
reactant | BuLi | 2.0 mmol, 2.5 M, 0.8 mL | [Li]CCCC
reactant | 8-methoxy-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid methyl ester | COC(=O)C1CC2=C(C=CC=C2CC1)OC | C13H16O3
reactant | Methyl iodide | 4.0 mmol, 568 mg | CI | CH3I
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | HMPA | 1.0 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | 8-methoxy-2-methyl-1,2,3,4-tetrahydro-naphthalene-2-carboxylic acid methyl ester | 170 mg, 84% | COC(=O)C1(CC2=C(C=CC=C2CC1)OC)C | C14H18O3
